US07704995B2
A suspension of methyl 3-aminopyrazine-2-carboxylate (5 g, 32.6 mmol) and 150 mL of dry methanol saturated with anhydrous ammonia were heated in an autoclave at 110-115° C. for 24 h. Concentration and filtration afforded 3-aminopyrazine-2-carboxamide (4.4 g, 97.7% yield) as a yellow solid.

reactant | methyl 3-aminopyrazine-2-carboxylate | 32.6 mmol, 5 g | NC=1C(=NC=CN1)C(=O)OC | C6H7N3O2
reactant | ammonia | N | H3N
solvent | methanol | 150 mL | CO | CH4O
product | 3-aminopyrazine-2-carboxamide | 4.4 g, 97.7% yield | NC=1C(=NC=CN1)C(=O)N | C5H6N4O
